US07465731B2
A solution of diethylphosphonoacetcacid ethyl ester (1.79 g) in THF (5 ml) was added dropwise to a mixture of 60% sodium hydride in oil (341 mg) in THF (60 mL) with stirring at 10-20° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at ambient temperature for 30 minutes. A solution of 2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinecarbaldehyde (1.58 g) in THF (10 ml) solution was added the above mixture and resultant mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}acrylate (1.7 g).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinecarbaldehyde | 1.58 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)C=O | C17H20N4O
reactant | AcOEt-H2O | C(=O)(C)OCC.O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}acrylate | 1.7 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)/C=C/C(=O)OCC | C21H26N4O2
